US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-7-methyl-pyrrolo[2,3-h]chroman-2-one
To a mixture of 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman (6 mg; 0.014 mmol), molecular sieves 4A° (20 mg) and 4-methylmorpholin-N-oxide (2 mg; 0.017 mmol ) in dichloromethane (0.5 ml) at 0° C. was added TPAP (0.4 mg). The mixture was stirred at this temperature for 0.5 h and at room temperature for 20 min. It was concentrated and passed through a bond-elute (hexane:ethyl acetate=9:1 and 4:1 as eluents), yielding the title compound (1.2 mg; 20%). 1H NMR (acetone-d6): 7.30 (d, J=3.1 Hz; 1H), 7.21 (dd, J=0.8, 8.4 Hz; 1H), 7.03 (d, J=2.0 Hz; 1H), 6.92 (d, J=8.4 Hz; 1H), 6.87 (dd, J=0.6, 2.1 Hz; 1H), 6.55 (dd, J=0.8, 3.1 Hz; 1H), 4.55 (t, J=5.9 Hz; 1H), 3.86, 3.84, 3.77 (s each, 9H), 3.24 (dd, J=6.4, 15.8 Hz; 1H), 3.13 (dd, J=5.9, 15.8 Hz; 1H).

reactant | 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman | 0.014 mmol, 6 mg | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)O | C20H20BrNO4
reactant | 4-methylmorpholin-N-oxide | 0.017 mmol, 2 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
catalyst | TPAP | 0.4 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-7-methyl-pyrrolo[2,3-h]chroman-2-one | 1.2 mg, 20% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)=O | C20H18BrNO4
